US07323475B2
c″) 2-(Ethoxycarbonylmethylimino-methyl)-4-phenoxy-benzoic acid ethyl ester
To a dried flask with glycine ethyl ester hydrochloride salt (62 mg) was added anhydrous dichloromethane (2 mL), followed by triethylamine (124 μL). Then magnesium sulfate (pre-dried on high vacuum by heat gun, 100 mg) was added, followed by addition of a dichloromethane (1 mL) solution of 2-formyl-4-phenoxy-benzoic acid ethyl ester (120 mg). The flask of 2-formyl-4-phenoxy-benzoic acid ethyl ester was further rinsed with 0.5 mL of dichloromethane. The resulting mixture was stirred at room temperature under nitrogen for 15 h. The mixture was filtered and rinsed with dichloromethane. After removal of solvent, the reaction was diluted with ether (15 mL) and washed with brine twice and dried. Filtration and removal of solvent gave the title compound 160 mg as an oil with good purity. 1H NMR (200 MHz, CDCl3) δ 9.02 (d, J=1.2, 1H), 7.94 (d, J=8.6 Hz, 1H), 7.63 (d, J=2.4, 1H), 7.40-7.32 (m, 2H), 7.20-7.11 (m, 1H), 7.06-6.97 (m, 3H), 4.41 (s, 2H), 4.35 (q, J=7.0 Hz, 2H), 4.21 (q, J=7.4 Hz, 2H), 1.39 (t, J=7.0 Hz, 3H), 1.28 (t, J=7.0 Hz, 3H).

reactant | glycine ethyl ester hydrochloride salt | 62 mg | Cl.C(C)OC(CN)=O
reactant | magnesium sulfate | 100 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 2-formyl-4-phenoxy-benzoic acid ethyl ester | 120 mg | C(C)OC(C1=C(C=C(C=C1)OC1=CC=CC=C1)C=O)=O | C16H14O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | triethylamine | 124 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(Ethoxycarbonylmethylimino-methyl)-4-phenoxy-benzoic acid ethyl ester | 160 mg | C(C)OC(C1=C(C=C(C=C1)OC1=CC=CC=C1)C=NCC(=O)OCC)=O | C20H21NO5
